US06159904
19-3) Synthesis of 6-carboxy-5-trifluoromethyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide
2.4 Grams (6.3 mmol) of 6-ethoxycarbonyl-5-trifluoromethyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide was dissolved in 25 ml of ethanol, and than a solution of 0.62 g (9.5 mmol) of potassium hydroxide in 3 ml of water was added. The mixture was stirred at room temperature for 2 hours, then diluted with water and washed with chloroform, and an aqueous layer was acidified with a 5 wt % hydrochloric acid aqueous solution. An organic precipitate was extracted with ethyl acetate, and an organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 1.9 g (yield 86%) of the titled compound.

reactant | 6-ethoxycarbonyl-5-trifluoromethyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide | 6.3 mmol | C(C)OC(=O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C(F)(F)F | C16H17F3O5S
reactant | potassium hydroxide | 9.5 mmol, 0.62 g | [OH-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 6-carboxy-5-trifluoromethyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide | 1.9 g, yield 86% | C(=O)(O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C(F)(F)F | C14H13F3O5S
